US05959145
5-bromopentanoic acid (2 g, 11.0 mmol) was added to a solution of potassium hydroxide (2.48 g, 44.2 mmol) in 1-octanol (20 mL) and stirred at 97° C. for 27 hrs. After cooling, the product was extracted at pH=1 with ethyl acetate and water. The organic phase was dried over sodium sulfate and solvent was removed. 1-octanol was removed by short path (Kugelrohr) distillation (50-70° C., 0.5 mm Hg). To ensure complete cleavage of the octyl ester, the residue was stirred 3 hrs with methanol/water/KOH (50%/50%/2.5 g, 40 mL) at 25° C. 1-octanol was extracted into ethyl acetate at pH=12 . 5-(octyloxy)pentanoic acid was extracted from the aqueous phase into ethyl acetate after adjusting the pH to 1.5 with HCl. After drying over sodium sulfate, the solvent was removed at reduced pressure. Silica column chromatography in 10% ethyl acetate/hexane/0.3% formic acid, yielded 5-(octyloxy)pentanoic acid (235 mg, 9%): mp <30° C.; 1H NMR (300 MHz, CDCl3) δ0.88 (t, 3H, J=6.6), 1.18-1.39 (bm, 10H, methylene envelope), 1.48-1.77 (bm, 6H, CH2CH2OCH2CH2, CH2CH2COOH), 2.39 (t, 2H, J=7.1, CH2COOH), 3.34-3.49 (bm, 4H, CH2OCH2), 10.66 (br, 1H, COOH); 13C NMR (75.4 MHz, CDCl3) 14.18, 21.59, 22.73, 26.22, 29.03, 29.32, 29.51, 29.72, 31.89, 33.85, 70.22, 71.07, 179.55; m/z 231 (M+H).

reactant | 5-bromopentanoic acid | 11.0 mmol, 2 g | BrCCCCC(=O)O | C5H9BrO2
reactant | potassium hydroxide | 44.2 mmol, 2.48 g | [OH-].[K+]
reactant | 1-octanol | 20 mL | C(CCCCCCC)O | C8H18O
product | 5-(octyloxy)pentanoic acid | 235 mg, 9% | C(CCCCCCC)OCCCCC(=O)O | C13H26O3
